US04045568
A solution of 1.5 g. of 1-(3-hydroxyoctyl)imidazole in 5 ml. of thionyl chloride was stirred for one hour at room temperature, and then evaporated to dryness to give 1-(3-chlorooctyl)imidazole hydrochloride as a gum.

reactant | 1-(3-hydroxyoctyl)imidazole | OC(CCN1C=NC=C1)CCCCC | C11H20N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1-(3-chlorooctyl)imidazole hydrochloride | Cl.ClC(CCN1C=NC=C1)CCCCC | InChI=1S/C11H19ClN2.ClH/c1-2-3-4-5-11(12)6-8-14-9-7-13-10-14;/h7,9-11H,2-6,8H2,1H3;1H
